US06930208B2
0.820 g (1.90 mmol) of ethyl 2,4-dibromo-3-(2-ethoxyiminopropyloxy)benzoate was dissolved in a mixture of 8 ml of THF and 8 ml of water, and 0.085 g (2.10 mmol) of NaOH was added. The mixture was stirred at RT for 12 h and then evaporated to dryness. The residue was taken up in water, and 6 N HCl was added. The mixture was then extracted with methylene chloride. The organic phase was dried using Na2SO4 and concentrated, giving 2,4-dibromo-3-(2-ethoxyiminopropyloxy)benzoic acid in the form of a colorless viscous oil.

reactant | ethyl 2,4-dibromo-3-(2-ethoxyiminopropyloxy)benzoate | 1.90 mmol, 0.820 g | BrC1=C(C(=O)OCC)C=CC(=C1OCC(C)=NOCC)Br | C14H17Br2NO4
reactant | NaOH | 2.10 mmol, 0.085 g | [OH-].[Na+]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | water | 8 ml | O | H2O
product | 2,4-dibromo-3-(2-ethoxyiminopropyloxy)benzoic acid | BrC1=C(C(=O)O)C=CC(=C1OCC(C)=NOCC)Br | C12H13Br2NO4
